US09079902B2
3-(3-Cyano-4-Fluorophenyl)-1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (3-cyano-4-fluorophenyl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 3-(3-cyano-4-fluorophenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.90 (s, 3 H) 7.54-7.60 (m, 2 H) 7.91-8.07 (m, 5 H) 8.13 (dd, J=6.13, 2.35 Hz, 1H). m/z (ESI) 413.0 (M+H)+.

reactant | (3-cyano-4-fluorophenyl)boronic acid | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 3-(3-cyano-4-fluorophenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | C(#N)C=1C=C(C=CC1F)C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C | C18H12FN5O2S2
